US05002966
5-Propyl-2-furanethanol
A solution of n-butyllithium in hexane (1.55M, 100 ml) was added over 5 min to a stirred solution of furan (10 g) and tetramethylethylenediamine (17.4 g) in dry THF (100 ml) at 0° under nitrogen. The mixture was stirred for 2 h at 0°, treated with iodopropane (25 g) over 15 min at 0° (reaction exothermic), and stirred at 0° for 1 h and at 23° for 1 h. The mixture was cooled to 0°, n-butyllithium (1.55M, 100 ml) was added over 10 min and the mixture stirred at 0° for a further 1 h. The mixture was cooled to -10°, treated with a solution of ethylene oxide (7 g) in dry THF (20 ml) over 15 min and stirred at -10° to 0° for 2 h and at 23° for 18 h. Water (200 ml) was added, the organic solvents removed in vacuo and the residue extracted with ether (3×200 ml). The extracts were washed with 0.5M hydrochloric acid (200 ml), 8% sodium bicarbonate (50 ml) and brine (50 ml), dried and evaporated in vacuo to give a brown oil which was distilled (Kugelrohr) to give the title compound as a pale-yellow oil (18.2 g) b.p. 191°-200°/15 Torr.

reactant | n-butyllithium | C(CCC)[Li]
reactant | furan | 10 g | O1C=CC=C1 | C4H4O
reactant | tetramethylethylenediamine | 17.4 g | CN(CCN(C)C)C | C6H16N2
reactant | iodopropane | 25 g | ICCC | C3H7I
reactant | n-butyllithium | 1.55M, 100 ml | C(CCC)[Li]
reactant | ethylene oxide | 7 g | C1CO1 | C2H4O
solvent | hexane | 1.55M, 100 ml | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Water | 200 ml | O | H2O
product | 5-Propyl-2-furanethanol | 18.2 g | C(CC)C1=CC=C(O1)CCO | C9H14O2
